US07632831B2
The conversion of ethyl indazole-3-acid to 5-nitroindazole-3-carboxylic acid is essentially the same method as described for methyl 3-nitrobenzoic acid: Kamm, O.; Segur, J. B. Org. Syn. Coll. Vol 1. 1941, 372. Ethyl indazole-3-carboxylate (73.7 mmol) was dissolved in 20 mL concentrated sulfuric acid and the reaction mixture was cooled to 0° C. A mixture of concentrated sulfuric acid (12 mL) and 70% nitric acid (12 mL) was added dropwise over the course of 1 h. The mixture was stirred for an additional 1 h at 0° C. and was poured onto of crushed ice (200 g). The solid was collected by vacuum filtration, washed with several portions of water and dried in vacuo. The dried solid was suspended in 250 mL acetonitrile and the mixture was heated at reflux for 2 h. The mixture was allowed to cool to room temperature and the solid was collected and dried in vacuo to provide ethyl 5-nitroindazole-3-carboxylate (53%) as a colorless solid. The ester was added to a solution of 10 N sodium hydroxide and the suspension was warmed to 60° C. After 2 h the solution was allowed to cool to room temperature and was acidified to pH ˜2. The precipitated solids were collected by filtration, washed with water, and dried to provide the acid as a light yellow solid. The acid was coupled with 1,4-diazabicyclo[3.2.2]nonane according to procedure A.

reactant | 5-nitroindazole-3-carboxylic acid | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)C(=O)O | C8H5N3O4
reactant | methyl 3-nitrobenzoic acid | CC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | Ethyl indazole-3-carboxylate | 73.7 mmol | N1N=C(C2=CC=CC=C12)C(=O)OCC | C10H10N2O2
reactant | nitric acid | 12 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 12 mL | S(O)(O)(=O)=O | H2O4S
product | ethyl 5-nitroindazole-3-carboxylate | 53% | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)C(=O)OCC | C10H9N3O4
